US08686005B2
To a solution of 4-Amino-3-methyl-5-nitro-phthalic acid dimethyl ester (1.8 g, 6.72 mmol) in THF (10 mL) and water (20 mL) was added 5 N NaOH (4.0 mL) and the resulting mixture was stirred at room temperature for 24 h. The reaction mixture was acidified with conc. HCl (pH=2.0) and extracted with EtOAc (2×100 mL). The combined organic layer was dried over Na2SO4, filtered and concentrated in vacuo to afford the 4-Amino-3-methyl-5-nitro-phthalic acid 2-methyl ester (1.3 g, 76%) as a yellow solid.

reactant | 4-Amino-3-methyl-5-nitro-phthalic acid dimethyl ester | 6.72 mmol, 1.8 g | COC(C=1C(C(=O)OC)=C(C(=C(C1)[N+](=O)[O-])N)C)=O | C11H12N2O6
reactant | NaOH | 5 N, 4.0 mL | [OH-].[Na+]
reactant | HCl | pH=2.0 | Cl | ClH
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | water | 20 mL | O | H2O
product | 4-Amino-3-methyl-5-nitro-phthalic acid 2-methyl ester | 1.3 g, 76% | COC(C=1C(C(=O)O)=CC(=C(C1C)N)[N+](=O)[O-])=O | C10H10N2O6
